### PR TITLE
Komlos Norm

### LINKED ISSUE #247: Auxiliary Komlos lemma for the norm in a Hilbert space
Blueprint:
https://remydegenne.github.io/brownian-motion/blueprint/chap-doob_meyer.html#lem:komlos_aux

This sorry:
https://github.com/RemyDegenne/brownian-motion/blob/3d0fe2c5a7728f97a1a219f846b4afa89e6174bb/BrownianMotion/StochasticIntegral/Komlos.lean#L26-L30

### PR DESCRIPTION
**Pull request by Deicyde**
Added proof of the `komlos_norm` theorem

Closes #247

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 1]
```diff
@@ -79,11 +80,44 @@ lemma komlos_convex [AddCommMonoid E] [Module ℝ≥0 E]
...
-    ∃ (g : ℕ → E) (x : E), (∀ n, g n ∈ convexHull ℝ (Set.range fun m ↦ f (n + m))) ∧
-    Tendsto g atTop (𝓝 x) :=
-  sorry
+    ∃ (g : ℕ → E) (x : E), (∀ n, g n ∈ convexHull ℝ≥0 (Set.range fun m ↦ f (n + m))) ∧
+    Tendsto g atTop (𝓝 x) := by
+  let φ : E → ℝ := fun f ↦ ‖f‖^2
+  have φ_nonneg : 0 ≤ φ := (fun f ↦ sq_nonneg ‖f‖)
+  have φ_bdd : ∃ M : ℝ, ∀ n, φ (f n) ≤ M := by
+    rcases h_bdd with ⟨M, hM⟩
+    use M^2
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
    exact ⟨M ^ 2, fun n => pow_le_pow_left₀ (norm_nonneg _) (hM n) 2⟩
```

**Review by CoolRmal — COMMENTED** [review]
I just had some comments to make your code more concise. I doubt that you can also make the proofs of `parallelogram_identity` and `g_cauchy` more compact but I didn't check the details. Also I prefer to use the obtain tactic rather than the rcases tactic for a proposition with the existential quantifier to increase readability (because you are really obtaining a constant from a statement), but this is really a personal preference.

I am not an official reviewer so perhaps you should not take my comments very seriously.

**Comment by RemyDegenne** [comment]
Can you modify your code to follow the suggestions of CoolRmal's review?
